US08580957B2
A solution 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(2-pyrazinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate (for a preparation see Intermediate 74) (204 mg, 0.403 mmol) in dichloromethane (DCM) (4 mL) was treated with trifluoroacetic acid (TFA) (1 mL, 12.98 mmol) and the resulting mixture was stirred at room temperature for 30 min then concentrated in vacuo. The residue was loaded on a 5 g SCX cartridge then eluted with MeOH (20 mL) followed by 2M NH3 in MeOH (20 mL). The ammonia fractions were combined to give a residue. Purification of this residue on SP4 using a 25 G silica cartridge (gradient:1 to 10% (2M NH3 in MeOH) in DCM) gave a second residue which was purified by MDAP (modifier: formic acid) to give a third residue which was loaded on a 5 g SCX cartridge then eluted with MeOH (20 mL) followed by 2M NH3 in MeOH (20 mL). The ammonia fractions were combined to give a residue which was dissolved in DCM (5 mL). The resulting solution was treated with HCl (1M in Et2O, 0.2 mL, 0.2 mmol) then concentrated in vacuo. Trituration of the residue with Et2O gave (2S,4R)-1-acetyl-2-methyl-6-{1-[2-(methylamino)ethyl]-1H-pyrazol-4-yl}-N-2-pyrazinyl-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride (77 mg, 0.159 mmol, 39.3% yield) as a cream solid.

reactant | 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(2-pyrazinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCN(C(OC(C)(C)C)=O)C)NC1=NC=CN=C1)C | C27H35N7O3
reactant | trifluoroacetic acid | 12.98 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 0.2 mmol, 1M, 0.2 mL | Cl | ClH
reactant | Et2O | CCOCC | C4H10O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | DCM | 5 mL | ClCCl | CH2Cl2
product | (2S,4R)-1-acetyl-2-methyl-6-{1-[2-(methylamino)ethyl]-1H-pyrazol-4-yl}-N-2-pyrazinyl-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride | 0.159 mmol, 77 mg, 39.3% yield | Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCNC)NC1=NC=CN=C1)C | InChI=1S/C22H27N7O.ClH/c1-15-10-20(27-22-13-24-6-7-25-22)19-11-17(4-5-21(19)29(15)16(2)30)18-12-26-28(14-18)9-8-23-3;/h4-7,11-15,20,23H,8-10H2,1-3H3,(H,25,27);1H/t15-,20+;/m0./s1
